US07888383B2
b) {1-[4-(Cyclohexyl-methyl-sulfamoyl)-benzyl]-5-fluoro-2-methyl-1H-indol-3-yl}-acetic acid
To a stirring suspension of (5-fluoro-2-methyl-1H-indol-3-yl)-acetic acid ethyl ester (100 mg, 0.43 mmol) in dry DMSO (1 ml), is added NaH (29 mg, 0.73 mmol). The reaction mixture is stirred at room temperature for 15 min after which time 4-bromomethyl-N-cyclohexyl-N-methyl-benzenesulfonamide (149 mg, 0.43 mmol) is added. Reaction mixture is diluted with water (10 ml) and treated with 1N HCl aq to acidic pH. The product is extracted in 1:1 EtOAc:Et2O (20 ml), washed with brine, dried (MgSO4) and evaporated in vacuo. The crude reaction mixture is purified by preparative MS-directed HPLC to afford the title compound; [M+H]+ 474.

reactant | (5-fluoro-2-methyl-1H-indol-3-yl)-acetic acid ethyl ester | 0.43 mmol, 100 mg | C(C)OC(CC1=C(NC2=CC=C(C=C12)F)C)=O | C13H14FNO2
reactant | NaH | 0.73 mmol, 29 mg | [H-].[Na+]
reactant | 4-bromomethyl-N-cyclohexyl-N-methyl-benzenesulfonamide | 0.43 mmol, 149 mg | BrCC1=CC=C(C=C1)S(=O)(=O)N(C)C1CCCCC1 | C14H20BrNO2S
reactant | HCl | 1N | Cl | ClH
solvent | DMSO | 1 ml | CS(=O)C | C2H6OS
solvent | water | 10 ml | O | H2O
product | {1-[4-(Cyclohexyl-methyl-sulfamoyl)-benzyl]-5-fluoro-2-methyl-1H-indol-3-yl}-acetic acid | C1(CCCCC1)N(S(=O)(=O)C1=CC=C(CN2C(=C(C3=CC(=CC=C23)F)CC(=O)O)C)C=C1)C | C25H29FN2O4S
